US04811788
In three-necked, one-liter, round-bottom flask (equipped with a reflux condenser, nitrogen inlet, dropping funnel, and magnetic stirring bar) 0.15 mole of lithium aluminum hydride was dispersed in 300 ml. of ether at room temperature and under a dry nitrogen atmosphere. The 2-hexyldecyloxyethoxyacetic acid from Part A was mixed with 200 ml. of ether and added dropwise with stirring. The resulting mixture was stirred overnight at room temperature. The flask containing the mixture was then cooled in ice, and icecold water was added dropwise to the mixture to react with any excess reducing agents. The reaction mixture was acidified with 10% H2SO4 to a pH of one, and extracted with 300 ml. of ether twice. The ether layers from the two extractions were diluted with an equal volume of water, and washed two times with saturated NaHCO3 solution. The mixture was then washed with water and dried with anhydrous magnesium sulfate. 2-hexyldecyloxyethoxyethanol was obtained after removing the ether.

reactant | lithium aluminum hydride | 0.15 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | CCOCC | C4H10O
reactant | 2-hexyldecyloxyethoxyacetic acid | C(CCCCC)C(COCCOCC(=O)O)CCCCCCCC | C20H40O4
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | 2-hexyldecyloxyethoxyethanol | C(CCCCC)C(COCCOC(C)O)CCCCCCCC | C20H42O3
